### PR TITLE
feat: Gourevitch conjecture

### LINKED ISSUE #1828: Gourevitch's conjecture
### What is the conjecture

 Gourevitch's conjecture states an identity between an infinite series involving central binomial coefficients and a constant multiple of $\pi^3$. Specifically, for the infinite series with numerators given by the polynomial $1 + 14n + 76n^2 + 168n^3$ and denominators involving $n$ times the seventh power of the central binomial coefficient $\binom{2n}{n}$, the sum equals $\frac{32}{\pi^3}$: $$\sum_{n=0}^{\infty} \frac{1 + 14n + 76n^2 + 168n^3}{2^{20n}} \cdot \binom{2n}{n}^7 = \frac{32}{\pi^3}$$

(This description may contain subtle errors especially on more complex problems; for exact details, refer to the sources.)

 **Sources:**
 - Jesús Guillera, "About a New Kind of Ramanujan-Type Series," *Experimental Mathematics*, Volume 12, Issue 4, pages 507–510 (2003). DOI: 10.1080/10586458.2003.10504518. https://eudml.org/doc/52183

### Prerequisites needed

**Formalizability Rating:** 1/5 (0 is best) (as of 2026-01-21)

Mathlib provides strong support for series, summation, and binomial coefficients. The core infrastructure for infinite series (tsum), central binomial coefficients, and real/rational arithmetic exists.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-33
* ams-40
* ams-11

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

Created by AI, reviewed by me.

### PR DESCRIPTION
**Pull request by Khansa435**
Fixes #1828

This PR formalizes Gourevitch's series identity.

Statement:
∑' n, ((1 + 14 n + 76 n^2 + 168 n^3) / 2^(20 n)) * (Nat.centralBinom n)^7
  = 32 / π^3

Details:
- Adds theorem `gourevitch_series_identity`
- Uses `Nat.centralBinom` for binomial coefficient formulation
- Categorized under `research solved` and `AMS 11 33`
- Includes literature references

References:
- Guillera (2003), Experimental Mathematics
- Au (2025), Journal of Symbolic Computation

### CODE REVIEW

**Comment by felixpernegger** [comment]
The conjecture is in an answer and not in a question. In my opinion this is a little bit too awkward. Furthermore, the answer directly links to a paper, so just use that as a source.
On top of that, according to the answer, the conjecture has been proven, so make sure to city that as well.
image
Since you will be changing the main source, move this file to arXiv foled (or maybe paper) then

File: FormalConjectures/Mathoverflow/100290.lean [hunk 1]
```diff
@@ -0,0 +1,43 @@
...
+-/
+
+namespace Mathoverflow100290
+
+open scoped BigOperators
+
+/-- The n-th term of the Gourevitch series -/
+noncomputable def gourevitch_term (n : ℕ) : ℝ :=
+  ((1 + 14 * n + 76 * n^2 + 168 * n^3) / (2^(20 * n)) : ℝ) *
+  ((Nat.choose (2 * n) n : ℝ)^7)
```
Comment (felixpernegger) [inline FormalConjectures/Mathoverflow/100290.lean]:
```suggestion
noncomputable def gourevitch_term (n : ℕ) : ℝ :=
  ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ) * ((Nat.central_binom n : ℝ) ^ 7)
```

File: FormalConjectures/Mathoverflow/100290.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+
+/-- The infinite sum of the Gourevitch series -/
+noncomputable def gourevitch_sum : ℝ := ∑' n, gourevitch_term n
+
+/-- Does the infinite series equal 32 / π³? -/
```
Comment (felixpernegger) [inline FormalConjectures/Mathoverflow/100290.lean]: Use Latex style for docstrings

File: FormalConjectures/Mathoverflow/100290.lean [hunk 3]
```diff
@@ -0,0 +1,43 @@
...
+@[category research open, AMS 11 33 40]
+theorem gourevitch_conjecture : answer(sorry) ↔ gourevitch_sum = 32 / (Real.pi^3) := by
```
Comment (felixpernegger) [inline FormalConjectures/Mathoverflow/100290.lean]:
```suggestion
theorem gourevitch_conjecture : answer(sorry) ↔ gourevitch_sum = 32 / (Real.pi ^ 3) := by
```
By the way I am not really sure we really need two definitions for this. But I suppose it is fine.

File: FormalConjectures/Mathoverflow/100290.lean [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Mathoverflow 100290
+
+*Reference:* [Mathoverflow 100290](https://mathoverflow.net/a/100290)
+answered by user [Timothy Chow](https://mathoverflow.net/users/3106/timothy-chow)
+-/
+
+namespace Mathoverflow100290
```
Comment (felixpernegger) [inline FormalConjectures/Mathoverflow/100290.lean]: dont forget to change the name of the namespace then also

File: FormalConjectures/Mathoverflow/100290.lean (hunk 2 above)
Comment (Khansa435) [reply FormalConjectures/Mathoverflow/100290.lean]: Sure

File: FormalConjectures/Mathoverflow/100290.lean (hunk 4 above)
Comment (Khansa435) [reply FormalConjectures/Mathoverflow/100290.lean]: then what should I name namespace and where should this conjecture be added ?

Comment (felixpernegger) [reply FormalConjectures/Mathoverflow/100290.lean]: I suppose rename (and also move) this file to ```Gourevitch.lean``` and rename the namespace to ```Gourevitch```

**Comment by felixpernegger** [comment]
Since the conjecture is solved, I would include also the conjecture mentioned in the update of the comment (which should be in one of the papers). For the $(x_n)$ there is ```desc_factorial``` or something like that in mathlib which you can use

**Comment by Khansa435** [comment]
Hi, sorry for doing it late as I was busy with my final exams :/ 
I've done your proposed changes i.e changed references and also cited the proof, changed docstrings to latex style etc. Can you plz take a look and let me know if its good to go? @felixpernegger

File: FormalConjectures/Paper/Gourevitch.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+/-- The infinite sum of the Gourevitch series:
+$$
+\sum_{n=0}^{\infty} a_n
+$$
+-/
+noncomputable def gourevitch_sum : ℝ := ∑' n, gourevitch_term n
+
+/-- The Gourevitch series identity:
+The infinite series evaluates to
+$$
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: dont need double dollars here

File: FormalConjectures/Paper/Gourevitch.lean [hunk 6]
```diff
@@ -0,0 +1,62 @@
...
+/-- The $n$-th term of the Gourevitch series:
+$$
+a_n = \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7
+$$
+-/
+noncomputable def gourevitch_term (n : ℕ) : ℝ :=
+  ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ) * ((central_binom n : ℝ) ^ 7)
+
+/-- The infinite sum of the Gourevitch series:
+$$
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: just use one dollar

File: FormalConjectures/Paper/Gourevitch.lean [hunk 7]
```diff
@@ -0,0 +1,62 @@
...
+
+namespace Gourevitch
+
+open scoped BigOperators
+
+/-- Central binomial coefficient: $ \binom{2n}{n} $ -/
+def central_binom (n : ℕ) : ℕ := Nat.factorial (2 * n) / (Nat.factorial n * Nat.factorial n)
+
+/-- The $n$-th term of the Gourevitch series:
+$$
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: just use one dollar

File: FormalConjectures/Paper/Gourevitch.lean [hunk 8]
```diff
@@ -0,0 +1,62 @@
...
+*Proof:* [Wilf-Zeilberger seeds and non-trivial hypergeometric identities](https://arxiv.org/abs/2312.14051)
+by *K. C. Au*
+-/
+
+namespace Gourevitch
+
+open scoped BigOperators
+
+/-- Central binomial coefficient: $ \binom{2n}{n} $ -/
+def central_binom (n : ℕ) : ℕ := Nat.factorial (2 * n) / (Nat.factorial n * Nat.factorial n)
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: This exists in mathlib already. Nat.central or something iirc

File: FormalConjectures/Paper/Gourevitch.lean [hunk 9]
```diff
@@ -0,0 +1,62 @@
...
+
+/-- The $n$-th term of the Gourevitch series:
+$$
+a_n = \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7
+$$
+-/
+noncomputable def gourevitch_term (n : ℕ) : ℝ :=
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: inline this

File: FormalConjectures/Paper/Gourevitch.lean (hunk 8 above)
Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Yes i initially used that but it got an error like "unknown constant" ors omething like that, in compiling .So far, I found that it existed in Lean 3 and not in lean 4 so I did it this way

Comment (felixpernegger) [reply FormalConjectures/Paper/Gourevitch.lean]: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Central.html#Nat.centralBinom

Try ```Nat.centralBinom```

File: FormalConjectures/Paper/Gourevitch.lean (hunk 9 above)
Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Done

File: FormalConjectures/Paper/Gourevitch.lean (hunk 8 above)
Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: I've used Nat.centralBinom ....Plz check :)

File: FormalConjectures/Paper/Gourevitch.lean [hunk 10]
```diff
@@ -0,0 +1,62 @@
...
+  ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ) * ((central_binom n : ℝ) ^ 7)
+
+/-- The infinite sum of the Gourevitch series:
+$$
+\sum_{n=0}^{\infty} a_n
+$$
+-/
+noncomputable def gourevitch_sum : ℝ := ∑' n, gourevitch_term n
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]: I think this can be inlined.

Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Sure. Lemme do it

File: FormalConjectures/Paper/Gourevitch.lean [hunk 11]
```diff
@@ -0,0 +1,59 @@
...
+
+/-- The Gourevitch series identity:
+The infinite series evaluates to
+$
+\sum_{n=0}^{\infty} a_n = \frac{32}{\pi^3}.
+$
+-/
+@[category research solved, AMS 11 33 40]
+theorem gourevitch_series_identity :
+  gourevitch_sum = 32 / (Real.pi ^ 3) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]: I mean writing something like this:)
```suggestion
  ∑' n, gourevitchSeq n = 32 / (Real.pi ^ 3) := by
```

File: FormalConjectures/Paper/Gourevitch.lean [hunk 12]
```diff
@@ -0,0 +1,59 @@
...
+*Reference:* [About a New Kind of Ramanujan-Type Series](https://doi.org/10.1080/10586458.2003.10504518)
+by *Jesús Guillera*
+
+*Proof:* [Wilf-Zeilberger seeds and non-trivial hypergeometric identities](https://arxiv.org/abs/2312.14051)
+by *K. C. Au*
+-/
+
+namespace Gourevitch
+
+open scoped BigOperators
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
```

File: FormalConjectures/Paper/Gourevitch.lean [hunk 13]
```diff
@@ -0,0 +1,59 @@
...
+
+/-- The $n$-th term of the Gourevitch series:
+$
+a_n = \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7
+$
+-/
+noncomputable inline def gourevitch_term (n : ℕ) : ℝ :=
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
noncomputable def gourevitchSeq (n : ℕ) : ℝ :=
```

File: FormalConjectures/Paper/Gourevitch.lean [hunk 14]
```diff
@@ -0,0 +1,59 @@
...
+  ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ) * ((Nat.centralBinom n : ℝ) ^ 7)
+
+/-- The infinite sum of the Gourevitch series:
+$
+\sum_{n=0}^{\infty} a_n
+$
+-/
+noncomputable inline def gourevitch_sum : ℝ := ∑' n, gourevitch_term n
+
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
```

**Comment by Khansa435** [comment]
Hi, thanks for the reviews :)
I’ve incorporated all the suggested changes and it looks good to me now.
Please let me know if everything works on your end, and if so, can we proceed with merging?
@felixpernegger @Paul-Lez

File: FormalConjectures/Paper/Gourevitch.lean [hunk 15]
```diff
@@ -0,0 +1,51 @@
...
+namespace Gourevitch
+
+
+/-- The $n$-th term of the Gourevitch series:
+$
+a_n = \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7
+$
+-/
+noncomputable def gourevitchSeq (n : ℕ) : ℝ :=
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: inline this also

File: FormalConjectures/Paper/Gourevitch.lean [hunk 16]
```diff
@@ -0,0 +1,51 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Gourevitch's series identity
+
+*Reference:* [About a New Kind of Ramanujan-Type Series](https://doi.org/10.1080/10586458.2003.10504518)
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: This is not the format we use for (multiple) references usually. Just look at another file and compare

**Comment by felixpernegger** [comment]
except for that, I think its fine to merge.

File: FormalConjectures/Paper/Gourevitch.lean (hunk 16 above)
Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: I've looked up some files under the arxiv floder and updated the "references" format accordingly

File: FormalConjectures/Paper/Gourevitch.lean (hunk 15 above)
Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Done

File: FormalConjectures/Paper/Gourevitch.lean [hunk 17]
```diff
@@ -0,0 +1,49 @@
...
+
+namespace Gourevitch
+
+
+/-- The $n$-th term of the Gourevitch series:
+$
+a_n = \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7
+$
+-/
+noncomputable inline def gourevitchSeq (n : ℕ) : ℝ :=
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]: I mean delete this definition and replace its occurences accordingly

Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Done

**Comment by Khansa435** [comment]
Hi @felixpernegger, just a gentle follow-up on the review. I’d appreciate your feedback. Thank you!

File: FormalConjectures/Paper/Gourevitch.lean [hunk 18]
```diff
@@ -0,0 +1,41 @@
...
+/-- The Gourevitch series identity:
+The infinite series evaluates to
+$
+\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.
+$
+-/
+@[category research solved, AMS 11 33 40]
+theorem gourevitch_series_identity :
+  ∑' n, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ) * ((Nat.centralBinom n : ℝ) ^ 7) = 32 / (Real.pi ^ 3) := by
+  sorry
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
@[category research solved, AMS 11 33]
theorem gourevitch_series_identity :
    ∑' n, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ)
      * ((Nat.centralBinom n : ℝ) ^ 7) = 32 / (Real.pi ^ 3) := by
  sorry
```

File: FormalConjectures/Paper/Gourevitch.lean [hunk 19]
```diff
@@ -0,0 +1,41 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Gourevitch's series identity
+
+*References:*
+ - [About a New Kind of Ramanujan-Type Series](https://doi.org/10.1080/10586458.2003.10504518) by *Jesús Guillera*
+ - [Wilf-Zeilberger seeds and non-trivial hypergeometric identities](https://arxiv.org/abs/2312.14051) proved by *K. C. Au*
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
 - [G2003] Guillera, Jesús. "About a new kind of Ramanujan-type series." Experimental Mathematics 12.4 (2003): 507-510.
 - [A2025] Au, Kam Cheong. "Wilf-Zeilberger seeds and non-trivial hypergeometric identities." Journal of Symbolic Computation 130 (2025): 102421. [arXiv:2312.14051](https://arxiv.org/abs/2312.14051)
```

File: FormalConjectures/Paper/Gourevitch.lean [hunk 20]
```diff
@@ -0,0 +1,41 @@
...
+
+namespace Gourevitch
+  
+
+/-- The Gourevitch series identity:
+The infinite series evaluates to
+$
+\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.
+$
+-/
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean:35]:
```suggestion
/-- The Gourevitch series identity:
The following idenitity holds:
$\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.$
This was originally conjectured in [G2003] by Guillera and proven in [A2025] by Au.
-/
```

**Review by Paul-Lez — APPROVED** [review]

**Comment by Khansa435** [comment]
Hi @Paul-Lez I see that you have enabled auto-merge but there are 3 workflows awaiting approval.
Could you please approve them so CI can run?
Thank you :)

**Comment by Khansa435** [comment]
Hi @Paul-Lez,
the build check was failing at line 39 due to a type mismatch:
Nat.centralBinom n expected n : ℕ but n was declared as ℝ.

I’ve updated line 39 to use ℕ instead, and the CI should now pass.
Could you please take another look when you have a moment?
Thanks!

File: FormalConjectures/Paper/Gourevitch.lean [hunk 21]
```diff
@@ -0,0 +1,42 @@
...
+
+/-- The Gourevitch series identity:
+The following idenitity holds:
+$\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.$
+This was originally conjectured in [G2003] by Guillera and proven in [A2025] by Au.
+-/
+@[category research solved, AMS 11 33]
+theorem gourevitch_series_identity :
+    ∑' n, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ)
+      * ((Nat.centralBinom n : ℕ) ^ 7) = 32 / (Real.pi ^ 3) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]: The type annotation shouldn't be needed
```suggestion
      * (Nat.centralBinom n ^ 7) = 32 / (Real.pi ^ 3) := by
```

**Review by Paul-Lez — APPROVED** [review]

**Comment by Khansa435** [comment]
@Paul-Lez It's still failing the build checks with the same error message  :/

File: FormalConjectures/Paper/Gourevitch.lean [hunk 22]
```diff
@@ -0,0 +1,42 @@
...
+
+/-- The Gourevitch series identity:
+The following idenitity holds:
+$\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.$
+This was originally conjectured in [G2003] by Guillera and proven in [A2025] by Au.
+-/
+@[category research solved, AMS 11 33]
+theorem gourevitch_series_identity :
+    ∑' n, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ)
+      * (Nat.centralBinom n ^ 7) = 32 / (Real.pi ^ 3) := by
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
theorem gourevitch_series_identity :
    ∑' n : ℕ, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ)
      * Nat.centralBinom n ^ 7 = 32 / (Real.pi ^ 3) := by
  sorry
```
this should work. Issue was with the index of the sum not the centralBinom.

Comment (Khansa435) [reply FormalConjectures/Paper/Gourevitch.lean]: Oh, Got it!
Can u please approve the workflows to run now.

File: FormalConjectures/Paper/Gourevitch.lean [hunk 23]
```diff
@@ -0,0 +1,43 @@
...
+The following idenitity holds:
+$\sum_{n=0}^{\infty} \frac{1 + 14 n + 76 n^2 + 168 n^3}{2^{20 n}} \binom{2n}{n}^7 = \frac{32}{\pi^3}.$
+This was originally conjectured in [G2003] by Guillera and proven in [A2025] by Au.
+-/
+@[category research solved, AMS 11 33]
+theorem gourevitch_series_identity :
+    ∑' n : ℕ, ((1 + 14 * n + 76 * n ^ 2 + 168 * n ^ 3) / (2 ^ (20 * n)) : ℝ)
+      * Nat.centralBinom n ^ 7 = 32 / (Real.pi ^ 3) := by
+  sorry
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/Gourevitch.lean]:
```suggestion
```

**Comment by Khansa435** [comment]
@Paul-Lez Checks are successful. Can you please now enable auto-merge?
